US08871942B2
21.26 g (119.4 mmol) of the 4-methylenepiperidine hydrobromide (4-MP.HBr) obtained in Production 1 and 2.859 g (119.4 mmol) of lithium hydroxide were added to 80 mL of acetonitrile and stirred for a while. Thereafter, 20 g (79.6 mmol) of (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane was added and the mixture was heated under reflux in an oil bath (external temperature: 100° C.) for 14 hours. After the reaction completed, ethanol and distilled water were added to the reaction mixture, whereupon a crystal was precipitated. Thereafter, the crystal was filtered off, washed with 40 mL of an ethanol/water mixture, dried with air at room temperature and further dried under reduced pressure at 40° C. for 12 hours to give a pale yellow crystal of KP-103 in an amount of 24.2 g (yield, 87.3%; purity on HPLC, 95.3%).

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | 79.6 mmol, 20 g | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | acetonitrile | 80 mL | C(C)#N | C2H3N
product | (2R,3R)-2-(2,4-difluorophenyl)-3-(4-methylenepiperidin-1-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)N1CCC(CC1)=C)O | C18H22F2N4O
